US06254941B1
Then, 5% Pd—C 4 g and ethanol 100 ml were added to 3-(5-fluoro-1-pentenyl) fluorobenzene 86 g (472 mmol) to conduct a reaction of catalytic hydrogenation reduction. After the hydrogen absorption was stopped, the catalyst was filtered off, and the filtrate was distilled(62° C./2 mmHg) to obtain 3-(5-fluoropentyl) fluorobenzene 56 g. (Yield: 64.4%).

reactant | 3-(5-fluoro-1-pentenyl) fluorobenzene | 472 mmol, 86 g | FCCCC=CC=1C=C(C=CC1)F | C11H12F2
catalyst | Pd—C | 4 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(5-fluoropentyl) fluorobenzene | 56 g, Yield: 64.4% | FCCCCCC=1C=C(C=CC1)F | C11H14F2
